US04186135
400 ml of water, 98.5 g of 6,7-dibromo-8-nitro-1,4-benzodioxane-5-carboxylic acid, 100 ml of soda and 10 g of Pd/c were introduced into an autoclave and then hydrogen under a pressure of 40 kg/cm2 was introduced while heating to 50° C. The mixture was filtered and then treated with 95 ml of hydrochloric acid. The precipitate was dried off, washed and dried. 42 g of 8-amino-1,4-benzodioxane-5-carboxylic acid were obtained (M.P.: 186° C.; yield: 83.7%).

reactant | 6,7-dibromo-8-nitro-1,4-benzodioxane-5-carboxylic acid | 98.5 g | BrC1=C(C2=C(OCCO2)C(=C1Br)[N+](=O)[O-])C(=O)O | C9H5Br2NO6
reactant | hydrogen | [H][H] | H2
catalyst | Pd | 10 g | [Pd] | Pd
solvent | water | 400 ml | O | H2O
product | 8-amino-1,4-benzodioxane-5-carboxylic acid | 42 g, yield: 83.7% | NC1=CC=C(C2=C1OCCO2)C(=O)O | C9H9NO4
